US06087380
b) 3-Methyl-2-[2-(4-amidinophenyl)ethyl]-imidazo[1.2-a]-pyridin-7-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide-hydrochloride
Prepared analogously to Example 1 from 3-methyl-2-[2-(4-cyanophenyl)ethyl]-imidazo[1.2-a]pyridin-7-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide and ethanolic hydrochloric acid, ethanol and ammonium carbonate. Yield: 62% of theory, C29H31N5O3 (497.60) Rf value: 0.23 (silica gel; ethyl acetate/ethanol/ammonia =50:45:5) EKA mass spectrum: (M+H)+ =498

reactant | 3-methyl-2-[2-(4-cyanophenyl)ethyl]-imidazo[1.2-a]pyridin-7-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide | C1(=CC=CC=C1)N(C(=O)C1=CC=2N(C=C1)C(=C(N2)CCC2=CC=C(C=C2)C#N)C)CCC(=O)OCC | C29H28N4O3
reactant | hydrochloric acid | Cl | ClH
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | ethyl acetate ethanol ammonia | C(C)(=O)OCC.C(C)O.N
solvent | ethanol | C(C)O | C2H6O
product | 3-Methyl-2-[2-(4-amidinophenyl)ethyl]-imidazo[1.2-a]-pyridin-7-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide-hydrochloride | Yield: 62% | Cl.C1(=CC=CC=C1)N(C(=O)C1=CC=2N(C=C1)C(=C(N2)CCC2=CC=C(C=C2)C(N)=N)C)CCC(=O)OCC | InChI=1S/C29H31N5O3.ClH/c1-3-37-27(35)16-18-34(24-7-5-4-6-8-24)29(36)23-15-17-33-20(2)25(32-26(33)19-23)14-11-21-9-12-22(13-10-21)28(30)31;/h4-10,12-13,15,17,19H,3,11,14,16,18H2,1-2H3,(H3,30,31);1H
